US06872744B2
To a mixture of para-fluorophenol (15 g) and K2CO3 (18.5 g) in 100 mL acetone were added chloroacetone (10.4 mL) and of KI (22 g). After heating at reflux for 18 h the reaction mixture was cooled down and left at RT overnight. The reaction mixture was filtered, washed with acetone, and evaporated to dryness. The residue was partitioned between dichloromethane and water, the organic layer was separated and washed with water, dried over MgSO4, and evaporated to yield 15 g of 1-(4-fluoro-phenoxy)-propan-2-one as a yellow liquid.

reactant | para-fluorophenol | 15 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | K2CO3 | 18.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetone | 10.4 mL | ClCC(C)=O | C3H5ClO
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 1-(4-fluoro-phenoxy)-propan-2-one | 15 g | FC1=CC=C(OCC(C)=O)C=C1 | C9H9FO2
